US04349684
8-(3-Methyl-2-oxo-5-phenyl-4-imidazolin-1-yl) caprylic acid
3.2 g of 8-(2-oxo-5-phenyl-4-imidazolin-1-yl) caprylic acid sodium salt (preparation see German patent application No. P 29 34 746.4) are suspended in 20 cc. of acetone together with 2.8 g of pulverized potassium hydroxide. The mixture is refluxed and converted into a homogenous solution by the addition of some drops of water. Thereafter, 2.8 g of methyliodide are added at boiling temperature, the mixture is refluxed for 30 minutes and cooled to room temperature. After cooling, so much of water is added that precipitated solids are dissolved. The solution is stirred at room temperature for 4 hours, is acidified and diluted with water until the crude acid is separated as oil. The oil is dissolved in a small amount of chloroform, the chloroform phase is washed with water several times and is finally extracted with 5% soda lye. The soda lye extract is washed with chloroform, the aqueous solution is acidified with dilute hydrochloric acid and is separated from the acid precipitated as an oil. Purification occurs by chromatography on silicic acid gel using a mixture of chloroform and methanol as eluant.

reactant | 8-(2-oxo-5-phenyl-4-imidazolin-1-yl) caprylic acid sodium salt | 3.2 g | [Na+].O=C1N(C(=CN1)C1=CC=CC=C1)CCCCCCCC(=O)[O-]
reactant | acetone | CC(=O)C | C3H6O
reactant | potassium hydroxide | 2.8 g | [OH-].[K+]
reactant | methyliodide | 2.8 g | CI | CH3I
solvent | water | O | H2O
product | 8-(3-Methyl-2-oxo-5-phenyl-4-imidazolin-1-yl) caprylic acid | CN1C(N(C(=C1)C1=CC=CC=C1)CCCCCCCC(=O)O)=O | C18H24N2O3
